*OPTOISO MCE 3-12-96
*NPN Optoisolator pkg:DIP6 1,2,5,4
*Connections
*               LED Anode
*               | LED Cathode
*               | | Emitter
*               | | | Collector
*               | | | | Base
*               | | | | |
.SUBCKT OPTOISO 1 2 4 5 6
VM    1 12 DC 0
D1   12  2 LED
R1   10 11 450
C1   11  0 1000PF
H1   10  0 VM 3.33E-2
G1    5  6 11 0 1
Q1    5  6  4 QNPN
.MODEL LED D(IS=2.5E-12 RS=.75 CJO=3.5E-11 N=2)
.MODEL QNPN NPN(IS=3.33E-11 NF=1.35 CJC=4.74E-11 CJE=167E-12 TF=9.23E-10
+ TR=1.48E-7 BF=150 BR=10 IKF=.1 VAF=100
.ENDS OPTOISO